US08735414B2
A mixture of (S)-1-cyclopentyl-5-fluoro-6-methyl-2-(5-(N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-1H-indole-3-carboxylic acid (300 mg, 0.58 mmol) in SOCl2 (4 mL) was stirred at 66° C. for 2 h. Volatiles were removed by a stream of nitrogen followed by vacuum to give (S)-1-cyclopentyl-5-fluoro-6-methyl-2-(5-(N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-1H-indole-3-carbonyl chloride as a solid. The above prepared (S)-1-cyclopentyl-5-fluoro-6-methyl-2-(5-(N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-1H-indole-3-carbonyl chloride (100 mg, 0.188 mmol) was treated with a solution of methylamine in THF (2.0 M, 5 mL, 10 mmol) and stirred at room temperature for 5 min. The mixture was then treated with ethyl acetate, washed with water and brine, dried over Na2SO4 and evaporated to give (S)-1-cyclopentyl-5-fluoro-N,6-dimethyl-2-(5-(N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-1H-indole-3-carboxamide (66 mg, 67%). MS m/z 527.3 M+H+; 1H NMR (500 MHz, CDCl3): δ 9.18 (1H, br s), 8.30 (1H, dd, J=8.0 Hz, J=2.0 Hz), 7.73 (1H, d, J=8.5 Hz), 7.66 (1H, d, J=10.5 Hz), 7.28 (1H, br s), 6.26 (1H, br s), 5.91 (1H, d, J=9.5 Hz), 4.51-4.40 (1H, m), 4.15-4.10 (1H, m), 2.84 (3H, s), 2.43 (3H, d, J=1.5 Hz), 2.30-2.23 (2H, m), 2.10-1.90 (4H, m), 1.68-1.62 (2H, m), 1.42 (3H, d, J=8.5 Hz).

reactant | (S)-1-cyclopentyl-5-fluoro-6-methyl-2-(5-(N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-1H-indole-3-carbonyl chloride | 0.188 mmol, 100 mg | C1(CCCC1)N1C(=C(C2=CC(=C(C=C12)C)F)C(=O)Cl)C1=NC=C(C=C1)S(N[C@H](C(F)(F)F)C)(=O)=O | C23H22ClF4N3O3S
reactant | methylamine | CN | CH5N
reactant | THF | 10 mmol, 2.0 M, 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-cyclopentyl-5-fluoro-N,6-dimethyl-2-(5-(N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-1H-indole-3-carboxamide | 66 mg, 67% | C1(CCCC1)N1C(=C(C2=CC(=C(C=C12)C)F)C(=O)NC)C1=NC=C(C=C1)S(N[C@H](C(F)(F)F)C)(=O)=O | C24H26F4N4O3S
